US05143920
2-Fluoro-4-aminophenol (0.8 g, 6 mmol) and 3-butyryl-4-chloro-8-methoxyquinoline (1.5 g, 5.7 mmol) were heated together under reflux in 1,4-dioxan (50 ml) for 1 hour. The solvent was evaporated and the residue was dissolved in dichloromethane, washed with water, sodium hydrogen oarbonate solution and brine then dried and evaporated. The residue was recrystallised from methanol-water to afford 3-butyryl-4-(3-fluoro-4-hydroxyphenylamino)-8-methoxyquinoline, m.p. 266°-268°.

reactant | 2-Fluoro-4-aminophenol | 6 mmol, 0.8 g | FC1=C(C=CC(=C1)N)O | C6H6FNO
reactant | 3-butyryl-4-chloro-8-methoxyquinoline | 5.7 mmol, 1.5 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C14H14ClNO2
solvent | 1,4-dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(3-fluoro-4-hydroxyphenylamino)-8-methoxyquinoline | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=CC(=C(C=C1)O)F)OC | C20H19FN2O3
